US03984467
1-(4-Tolyl)-3-(acetimidoyl)urea
Following a procedure similar to that described in Example 23 but using 4.6 g. sodium in 500 ml. dry acetone, 18.8 g. acetamidine hydrochloride and 26.6 g. 4-tolyl isocyanate in 120 ml. of dry acetone, there was obtained after recrystallization from isopropyl alcohol 27.1 g. 1-(4-tolyl)-3-(acetimidoyl) urea hydrochloride; m.p. 210°-212°C.

reactant | sodium | [Na] | Na
reactant | acetamidine hydrochloride | Cl.C(C)(=N)N
reactant | 4-tolyl isocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Tolyl)-3-(acetimidoyl)urea | C1(=CC=C(C=C1)NC(=O)NC(C)=N)C | C10H13N3O
